US08426602B2
2-({[2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-6-[(2-hydroxyethyl)amino]-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile
100 mg (purity 91%, 0.186 mmol) of 2-chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile were initially charged in 5 ml of THF, 0.023 ml (0.373 mmol) of 2-aminoethanol was added and the mixture was stirred at room temperature for 30 min. The product was then isolated by preparative HPLC. This gave 64 mg (67% of theory) of the target compound.

reactant | 2-chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile | 0.186 mmol, 100 mg | ClC1=NC(=C(C(=C1C#N)C1=CN=CS1)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C20H9Cl2N5S3
reactant | 2-aminoethanol | 0.373 mmol, 0.023 ml | NCCO | C2H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-({[2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-6-[(2-hydroxyethyl)amino]-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile | ClC1=CC=C(C=C1)C=1SC=C(N1)CSC1=NC(=C(C(=C1C#N)C1=CN=CS1)C#N)NCCO | C22H15ClN6OS3
